US06943159B1
7-Methylsulfonylamino-1,2,3,3a,4,5-hexahydrobenzo[e]pyrrolo[2,1-c]-1,2,4-thiadiazine-5,5-dioxide (87):
A stirred solution of 7-amino-1,2,3,3a,4,5-hexahydrobenzo[e]pyrrolo[2,1-c]-1,2,4-thiadiazine-5,5-dioxide (150 mg; 0.5 mmol) and triethylamine (70 μl; 0.5 mmol) in THF (1 ml) was added a solution of CH3SO2Cl (40 μl; 0.5 mmol) in THF (1 ml) and stirred at rt. over night. The reaction mixture was evaporated to dryness, suspended in H2O and extracted by EtOAc. The combined organic fractions were evaporated to dryness. Column chromatography gave 40 mg product. M.p. 177-180° C.

reactant | 7-amino-1,2,3,3a,4,5-hexahydrobenzo[e]pyrrolo[2,1-c]-1,2,4-thiadiazine-5,5-dioxide | 0.5 mmol, 150 mg | NC1=CC2=C(N3C(NS2(=O)=O)CCC3)C=C1 | C10H13N3O2S
reactant | triethylamine | 0.5 mmol, 70 μl | C(C)N(CC)CC | C6H15N
reactant | CH3SO2Cl | 0.5 mmol, 40 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 7-Methylsulfonylamino-1,2,3,3a,4,5-hexahydrobenzo[e]pyrrolo[2,1-c]-1,2,4-thiadiazine-5,5-dioxide | 40 mg | CS(=O)(=O)NC1=CC2=C(N3C(NS2(=O)=O)CCC3)C=C1 | C11H15N3O4S2
